US07612114B2
6-{2-[(4-Azepan-1-ylmethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from {2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine and 4-azepan-1-ylmethylbenzoic acid hydrochloride according to an analogous synthetic method to Example 152, (4-azepan-1-ylmethylbenzyl){2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine (67 mg) was used according to an analogous synthetic method to Example 325 described below to provide the title compound (48 mg).

reactant | {2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(CC2=CC1)C1=C(C=C(C=C1)OC)CCN | C25H37NO2Si
reactant | 4-azepan-1-ylmethylbenzoic acid hydrochloride | Cl.N1(CCCCCC1)CC1=CC=C(C(=O)O)C=C1
reactant | (4-azepan-1-ylmethylbenzyl){2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine | 67 mg | N1(CCCCCC1)CC1=CC=C(CNCCC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C39H56N2O2Si
product | 6-{2-[(4-Azepan-1-ylmethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 48 mg | N1(CCCCCC1)CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C33H42N2O2
